* File: INX8.pex.netlist.pex
* Created: Fri Jun 30 08:18:53 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INX8_D_VDD 1 4 8 21 27 28 29
c16 29 0 0.336372f
c17 28 0 0.210983f
c18 27 0 0.336372f
c19 23 0 0.0701213f
c20 21 0 0.0701213f
c21 16 0 0.226503f
c22 8 0 0.283408f
c23 4 0 0.283408f
c24 1 0 0.239598f
r25 22 29 0.288056
r26 22 23 0.0120155
r27 19 28 0.325833
r28 19 21 0.0120155
r29 16 27 0.288056
r30 12 23 0.0329425
r31 9 21 0.0329425
r32 8 23 0.0329425
r33 4 21 0.0329425
r34 1 16 0.0244757
r35 1 5 0.0231875
r36 1 12 0.068
r37 1 8 0.1275
r38 1 9 0.1275
r39 1 4 0.204
r40 1 5 0.051
.ends

.subckt PM_INX8_D_GND 1 4 5 7 8 14 24 28
c6 24 0 0.263557f
c7 14 0 0.527884f
c8 8 0 0.313177f
c9 7 0 0.257362f
c10 1 0 0.397229f
r11 14 28 0.01275
r12 7 8 0.0830726
r13 5 7 0.00708333
r14 4 24 0.0533226
r15 1 28 0.0580833
r16 1 4 0.00141667
r17 1 8 0.051
r18 1 5 0.0240833
r19 1 14 0.0198333
r20 1 24 0.0935
.ends

.subckt PM_INX8_OUT 3 4 5 12 21 28 29
c27 29 0 0.279721f
c28 28 0 0.239479f
c29 21 0 0.281017f
c30 12 0 0.274154f
c31 5 0 0.122623f
c32 4 0 0.250425f
r33 22 29 0.292778
r34 21 22 0.00499195
r35 16 28 0.292778
r36 15 16 0.00499195
r37 12 21 0.193611
r38 12 15 0.118056
r39 9 12 0.05525
r40 4 9 0.0166214
r41 4 5 0.0847008
r42 3 5 0.118056
.ends

.subckt PM_INX8_IN 2 3 5 7 10 13 15 17 19 20 22 24 25 29 32 35 38
c29 38 0 0.474858f
c30 35 0 0.0588686f
c31 33 0 0.0593416f
c32 32 0 0.0593416f
c33 31 0 0.0692456f
c34 29 0 0.385819f
c35 25 0 0.274668f
c36 22 0 0.37075f
c37 20 0 0.154356f
c38 17 0 0.37075f
c39 15 0 0.167785f
c40 13 0 0.385819f
c41 10 0 0.253349f
c42 7 0 0.660738f
c43 3 0 0.0974841f
c44 2 0 0.275646f
r45 38 43 13.9776
r46 35 38 7
r47 27 29 87.5
r48 26 33 10.5861
r49 25 27 13.9682
r50 25 26 58.3333
r51 22 33 2.75115
r52 22 24 79.1667
r53 21 32 10.5861
r54 20 33 10.5861
r55 20 21 54.1667
r56 17 32 2.75115
r57 17 19 79.1667
r58 16 31 2.75115
r59 15 32 10.5861
r60 15 16 58.3333
r61 11 31 10.5861
r62 11 13 87.5
r63 10 31 10.5861
r64 9 43 10.3572
r65 9 10 77.0833
r66 5 7 170.833
r67 3 5 75
r68 2 38 13.9776
r69 1 3 13.9682
r70 1 2 81.25
.ends

