* File: LGCPX1.pex.netlist.pex
* Created: Mon Jun  5 11:47:16 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LGCPX1%D_VDD 1 4 9 10 15 16 21 22 27 28 33 38 51 52 53 54 55
c66 55 0 0.0605774f
c67 54 0 0.0815588f
c68 53 0 0.066064f
c69 52 0 0.0768448f
c70 51 0 0.0671824f
c71 45 0 0.0467475f
c72 44 0 0.0467475f
c73 43 0 0.0467475f
c74 42 0 0.0467475f
c75 38 0 0.425226f
c76 33 0 0.0897761f
c77 28 0 0.294679f
c78 27 0 0.106156f
c79 22 0 0.316856f
c80 21 0 0.0897761f
c81 16 0 0.308683f
c82 15 0 0.106156f
c83 10 0 0.520217f
c84 9 0 0.0897761f
c85 4 0 0.434169f
c86 1 0 0.0467475f
r87 34 45 0.0231002
r88 33 45 0.0225187
r89 32 55 0.0566888
r90 32 33 0.184167
r91 29 44 0.0231002
r92 28 45 0.0231002
r93 27 44 0.0225187
r94 26 54 0.0566888
r95 26 27 0.184167
r96 23 43 0.0231002
r97 22 44 0.0231002
r98 21 43 0.0225187
r99 20 53 0.0566888
r100 20 21 0.184167
r101 17 42 0.0231002
r102 16 43 0.0231002
r103 15 42 0.0225187
r104 14 52 0.0566888
r105 14 15 0.184167
r106 10 42 0.0231002
r107 8 51 0.0566888
r108 8 9 0.184167
r109 1 9 0.0225187
r110 1 4 0.0231002
r111 1 11 0.0231002
r112 1 38 0.12325
r113 1 34 0.09775
r114 1 28 0.12325
r115 1 29 0.14875
r116 1 22 0.20825
r117 1 23 0.07225
r118 1 16 0.14875
r119 1 17 0.13175
r120 1 10 0.22525
r121 1 11 0.25075
r122 1 4 0.24225
.ends

.subckt PM_LGCPX1%N$219 2 5 9 12 13 14 17 20 23 27 32 36 37 38 50 51 52 54 58 62
+ 64 67
c146 64 0 0.575767f
c147 62 0 0.0203871f
c148 58 0 0.148975f
c149 54 0 0.034314f
c150 52 0 0.0677911f
c151 51 0 0.164924f
c152 50 0 0.034642f
c153 45 0 0.0390046f
c154 38 0 0.102148f
c155 37 0 0.108763f
c156 36 0 0.426741f
c157 32 0 0.256717f
c158 30 0 0.0444365f
c159 27 0 0.142714f
c160 23 0 0.338157f
c161 20 0 0.108101f
c162 17 0 0.469177f
c163 14 0 0.0741809f
c164 13 0 0.407524f
c165 12 0 0.53421f
c166 9 0 0.522867f
c167 5 0 0.257008f
c168 2 0 0.101781f
r169 62 64 0.0519666
r170 62 63 7
r171 58 73 15.2843
r172 57 59 0.0236111
r173 57 58 7
r174 54 57 0.0141667
r175 51 69 15.2843
r176 50 52 0.0519666
r177 50 51 7
r178 46 48 0.0920833
r179 40 59 0.0216719
r180 40 64 1.98333
r181 38 48 0.0425
r182 37 54 0.0216719
r183 37 38 0.347083
r184 36 67 0.0908331
r185 35 48 0.00499195
r186 35 36 0.453333
r187 34 45 0.00935391
r188 34 52 0.2975
r189 32 46 0.00499195
r190 31 45 0.0359928
r191 31 32 0.51
r192 30 45 0.0359928
r193 30 44 0.085
r194 25 27 20.8333
r195 21 27 1.46822
r196 21 23 91.6667
r197 19 25 1.46822
r198 19 20 33.3333
r199 15 17 116.667
r200 13 20 13.9682
r201 13 14 116.667
r202 12 15 24.3665
r203 12 63 3.65497
r204 11 14 13.9682
r205 11 12 45.8333
r206 9 73 158.333
r207 5 69 50
r208 2 44 0.0519666
.ends

.subckt PM_LGCPX1%D_GND 1 6 7 8 9 11 13 15 17 22 28 34 49 56
c61 56 0 0.409586f
c62 49 0 0.519743f
c63 35 0 0.0467475f
c64 34 0 0.330041f
c65 29 0 0.0467475f
c66 28 0 0.756813f
c67 23 0 0.0467475f
c68 22 0 0.296884f
c69 17 0 0.0914568f
c70 15 0 0.0922089f
c71 13 0 0.0943793f
c72 11 0 0.0818042f
c73 9 0 0.0580712f
c74 8 0 0.0625092f
c75 7 0 0.0787296f
c76 6 0 0.0606293f
c77 1 0 0.0467475f
r78 34 35 0.0231002
r79 33 35 0.0231002
r80 28 29 0.0231002
r81 27 29 0.0231002
r82 22 23 0.0231002
r83 21 23 0.0231002
r84 16 17 0.17
r85 14 35 0.0225187
r86 14 15 0.17
r87 12 29 0.0225187
r88 12 13 0.155833
r89 10 23 0.0225187
r90 10 11 0.155833
r91 9 17 0.0519666
r92 8 15 0.0519666
r93 7 13 0.0519666
r94 6 11 0.0519666
r95 1 16 0.0225187
r96 1 49 0.0231002
r97 1 52 0.0231002
r98 1 56 0.12325
r99 1 52 0.11475
r100 1 49 0.24225
r101 1 33 0.23375
r102 1 34 0.12325
r103 1 27 0.17425
r104 1 28 0.18275
r105 1 21 0.20825
r106 1 22 0.14875
.ends

.subckt PM_LGCPX1%nose 2 5 8 13 17 19 21 22 24 25 27 28 30 33 35 38 40 48 54 56
c88 56 0 0.0784737f
c89 54 0 0.323039f
c90 40 0 0.0828769f
c91 38 0 0.142695f
c92 35 0 0.0220874f
c93 33 0 0.190439f
c94 30 0 0.0596331f
c95 28 0 0.0166935f
c96 27 0 0.0133869f
c97 25 0 0.0611325f
c98 24 0 0.0137195f
c99 22 0 0.0245685f
c100 21 0 0.0723838f
c101 19 0 0.119458f
c102 17 0 0.231064f
c103 13 0 0.26917f
c104 8 0 0.127571f
c105 5 0 0.439465f
c106 2 0 0.0642213f
r107 48 56 0.0188889
r108 40 42 0.134583
r109 38 55 15.2843
r110 38 54 15.2843
r111 37 38 7
r112 33 49 12.5
r113 32 35 0.0519666
r114 32 33 7
r115 29 30 0.162917
r116 27 56 0.0216719
r117 27 28 0.0920833
r118 26 40 0.00499195
r119 25 30 0.0474919
r120 25 26 0.162917
r121 24 28 0.0474919
r122 23 24 0.134583
r123 22 37 0.0519666
r124 21 23 0.0474919
r125 21 22 0.247917
r126 19 42 0.00499195
r127 19 35 0.325833
r128 15 17 50
r129 13 55 54.1667
r130 9 17 1.46822
r131 9 54 108.333
r132 8 15 1.46822
r133 7 49 6.3741
r134 7 8 45.8333
r135 3 49 6.3741
r136 3 5 112.5
r137 2 29 0.0519666
.ends

.subckt PM_LGCPX1%cn 2 5 7 8 10 11 13 17 20 25 30 33 34 35 41 43 46 49
c95 49 0 0.268673f
c96 46 0 0.191721f
c97 43 0 0.107389f
c98 41 0 0.157124f
c99 35 0 0.0252516f
c100 34 0 0.128984f
c101 33 0 0.162173f
c102 30 0 0.0223425f
c103 25 0 0.0364925f
c104 20 0 0.182106f
c105 17 0 0.427574f
c106 11 0 0.215999f
c107 10 0 0.555998f
c108 8 0 0.0823378f
c109 7 0 0.24449f
c110 5 0 0.447454f
c111 2 0 0.157207f
r112 43 54 0.03825
r113 41 53 15.2843
r114 40 41 7
r115 33 49 15.2843
r116 32 35 0.0141667
r117 32 34 0.0519666
r118 32 33 7
r119 30 34 0.453333
r120 28 46 15.2778
r121 27 30 0.0519666
r122 27 28 7
r123 25 54 0.025958
r124 24 35 0.0216719
r125 24 25 0.085
r126 18 20 35.4167
r127 17 20 1.46822
r128 17 53 147.917
r129 14 18 1.46822
r130 14 49 85.4167
r131 11 46 6.3741
r132 11 13 45.8333
r133 10 46 6.3741
r134 9 10 200
r135 7 9 13.9682
r136 7 8 58.3333
r137 3 8 13.9682
r138 3 5 112.5
r139 2 40 0.103553
.ends

.subckt PM_LGCPX1%ci 2 3 7 11 15 18 19 22 24 25 28 30 32 34 36 41 46 49 54 56 59
+ 68 71 75 76 80
c157 80 0 0.0274786f
c158 76 0 0.238496f
c159 75 0 0.115722f
c160 71 0 0.16444f
c161 68 0 0.0744137f
c162 59 0 0.0601135f
c163 56 0 0.0267243f
c164 54 0 0.143615f
c165 49 0 0.0779996f
c166 46 0 0.0268696f
c167 41 0 0.014263f
c168 36 0 0.10056f
c169 34 0 0.0814009f
c170 32 0 0.14862f
c171 30 0 0.109258f
c172 28 0 0.166846f
c173 25 0 0.195514f
c174 24 0 0.216383f
c175 22 0 0.209977f
c176 19 0 0.55281f
c177 18 0 0.189897f
c178 11 0 0.229905f
c179 7 0 0.687235f
c180 3 0 0.155242f
c181 2 0 0.0779654f
r182 68 80 0.0566888
r183 59 61 0.119
r184 59 60 7
r185 57 59 0.017
r186 54 76 15.2843
r187 54 75 15.2843
r188 53 56 0.0519666
r189 53 54 7
r190 49 51 0.144558
r191 49 50 7
r192 47 49 0.0173469
r193 44 71 15.2843
r194 43 46 0.0519666
r195 43 44 7
r196 40 62 0.0216719
r197 40 41 0.085
r198 38 80 0.085
r199 37 57 0.0142585
r200 36 41 0.0474919
r201 36 37 0.240833
r202 34 38 0.0474919
r203 34 56 0.255
r204 33 47 0.0134325
r205 32 61 0.0142585
r206 32 33 0.5525
r207 30 51 0.0134325
r208 30 46 0.559583
r209 26 28 29.1667
r210 24 50 33.4821
r211 24 25 33.3333
r212 20 60 23.917
r213 20 22 37.5
r214 19 28 1.46822
r215 18 60 15.3456
r216 18 19 185.417
r217 16 26 1.46822
r218 16 75 35.4167
r219 15 76 45.8333
r220 9 25 14.7074
r221 9 11 41.6667
r222 5 7 220.833
r223 3 5 13.9682
r224 3 71 31.25
r225 2 62 0.0708333
.ends

.subckt PM_LGCPX1%GCLK 2 5 8 9 13 15 17 18 29 31 36 43
c69 43 0 0.157465f
c70 36 0 0.251475f
c71 31 0 0.105511f
c72 29 0 0.173453f
c73 18 0 0.164914f
c74 17 0 0.0522318f
c75 15 0 0.0315449f
c76 13 0 0.159751f
c77 9 0 0.182118f
c78 8 0 0.0341229f
c79 5 0 0.0837139f
c80 2 0 0.090873f
r81 36 40 81.25
r82 31 43 0.0566888
r83 18 40 15.2843
r84 17 19 0.0940755
r85 17 18 7
r86 13 36 15.2843
r87 12 15 0.0519666
r88 12 13 7
r89 9 29 0.0706515
r90 9 43 0.432083
r91 8 19 0.0152264
r92 7 20 0.0216719
r93 7 8 0.085
r94 5 29 0.0739715
r95 5 15 0.453333
r96 2 20 0.0425
.ends

.subckt PM_LGCPX1%nose2 2 5 7 9 11 13 17 18 21 22 23 28 30 32 34 37 38 39 41 47
+ 58
c75 58 0 0.0267498f
c76 47 0 0.0685417f
c77 41 0 0.100547f
c78 39 0 0.204722f
c79 38 0 0.162194f
c80 37 0 0.0708111f
c81 34 0 0.0507061f
c82 32 0 0.0267086f
c83 30 0 0.0267057f
c84 28 0 0.164128f
c85 23 0 0.00832352f
c86 22 0 0.00818974f
c87 21 0 0.00553175f
c88 18 0 0.0601585f
c89 17 0 0.0341587f
c90 13 0 0.388047f
c91 12 0 0.0978722f
c92 11 0 0.346498f
c93 7 0 0.241882f
c94 5 0 0.250036f
r95 47 58 0.0566888
r96 39 45 0.410833
r97 38 55 15.2843
r98 37 39 0.0519666
r99 37 38 7
r100 33 52 16.2146
r101 32 34 0.0519666
r102 32 33 7
r103 28 49 15.2843
r104 27 30 0.0519666
r105 27 28 7
r106 22 41 0.0216719
r107 22 23 0.141667
r108 20 23 0.0474919
r109 20 21 0.0991667
r110 18 21 0.0474919
r111 18 30 0.255
r112 17 34 0.198333
r113 14 17 0.0474919
r114 14 58 0.085
r115 13 52 20.9465
r116 12 13 36.1242
r117 11 12 14.7074
r118 11 55 97.9167
r119 7 52 5.66349
r120 7 9 45.8333
r121 5 49 50
r122 2 45 0.0566888
r123 2 41 0.0188889
.ends

.subckt PM_LGCPX1%E 3 5 6 9 12 15 18 23
c48 23 0 0.165163f
c49 18 0 0.0442667f
c50 15 0 0.165646f
c51 12 0 0.28917f
c52 9 0 0.201899f
c53 6 0 0.0599927f
c54 5 0 0.130187f
c55 3 0 0.707182f
r56 21 23 11.3895
r57 18 21 7
r58 13 15 25
r59 12 23 6.07858
r60 11 15 1.46822
r61 11 12 102.083
r62 7 13 1.46822
r63 7 9 37.5
r64 5 23 11.066
r65 5 6 41.6667
r66 1 6 13.9682
r67 1 3 222.917
.ends

.subckt PM_LGCPX1%CLK 1 3 4 5 8 11 12 14 16 17 19 20 25 26 28 30 32
c93 32 0 0.167034f
c94 30 0 0.0311122f
c95 26 0 0.099868f
c96 25 0 0.13809f
c97 20 0 0.0569638f
c98 17 0 0.538734f
c99 14 0 0.219805f
c100 12 0 0.337536f
c101 11 0 0.669971f
c102 8 0 0.404344f
c103 5 0 0.0672162f
c104 4 0 0.0861773f
c105 1 0 0.223316f
r106 30 32 0.0519666
r107 30 31 7
r108 26 28 0.117274
r109 25 36 15.2843
r110 25 35 15.2843
r111 24 26 0.00469095
r112 24 25 7
r113 22 26 0.0219418
r114 22 32 0.623333
r115 17 31 43.0621
r116 17 19 41.6667
r117 14 16 41.6667
r118 13 20 10.5861
r119 12 14 13.9682
r120 12 13 79.1667
r121 11 20 2.75115
r122 11 36 208.333
r123 8 35 104.167
r124 4 20 10.5861
r125 4 5 33.3333
r126 1 5 13.9682
r127 1 3 41.6667
.ends

